US04168267
Dimethylphosphinic acid, phenylmethyl ester
To a cooled (0°) solution of dimethylphosphinyl chloride (3.4 g., 0.03 moles) in dichloromethane (50 ml.) is added dropwise (over a period of 20 minutes), with stirring, a solution of benzyl alcohol (3.2 g., 0.03 moles) and triethylamine (3.4 g., 0.03 moles) in dichloromethane (30 ml.). After stirring at 0° for one hour, and at ambient temperature overnight, the mixture is filtered and the filtrate is concentrated in vacuo. The residue (5 g., 90%) becomes semi-solid at room temperature. It is recrystallized from pentane (450 ml.) with a recovery of dimethylphosphinic acid, phenylmethyl ester, yield 3.6 g. (65%) m.p. 41°-45°. A second recrystallization of 0.5 g. from pentane (75 ml.) gives a recovery of 0.26 g. of product, m.p. 46°-47°.

reactant | dimethylphosphinyl chloride | 0.03 moles, 3.4 g | CP(=O)(C)Cl | C2H6ClOP
reactant | benzyl alcohol | 0.03 moles, 3.2 g | C(C1=CC=CC=C1)O | C7H8O
reactant | triethylamine | 0.03 moles, 3.4 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Dimethylphosphinic acid, phenylmethyl ester | CP(OCC1=CC=CC=C1)(=O)C | C9H13O2P
